US08486950B2
2,6-dichloro-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)-4-((dimethylamino)methyl)benzamide
To a solution of Et3N (121 mg, 1.2 mmol) in absolute methanol (1 mL) was added Me2NH HCl (103 mg, 1.2 mmol), Ti(O-iPr)4 (114 mg, 0.40 mmol), and 2,6-dichloro-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)-4-formylbenzamide (80 mg, 0.20 mmol). The reaction was stirred at room temperature for 9 hours and then NaBH4 (12 mg, 0.30 mmol) was added. The resulting mixture was stirred for 10 hours and then diluted with EtOAc (20 mL). The organic solution was washed with water (3×10 ml) and then concentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to afford the desired product (30 mg, 31% yield). 1H NMR (500 MHz, MeOH-d4): δ 8.31 (s, 1H), 8.24 (s, 1H), 7.60 (m, 1H), 7.48 (s, 2H), 3.52 (s, 2H), 2.28 (s, 6H), 1.91 (m, 1H), 1.02-0.98 (m, 2H), 0.94-0.90 (m, 2H). LCMS (ESI) m/z: 407.1 [M+H+].

reactant | Et3N | 1.2 mmol, 121 mg | CCN(CC)CC | C6H15N
reactant | Me2NH HCl | 1.2 mmol, 103 mg | N(C)C.Cl
reactant | 2,6-dichloro-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)-4-formylbenzamide | 0.20 mmol, 80 mg | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)C2CC2)C(=CC(=C1)C=O)Cl | C17H13Cl2N3O3
reactant | NaBH4 | 0.30 mmol, 12 mg | [BH4-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2,6-dichloro-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)-4-((dimethylamino)methyl)benzamide | 30 mg, 31% yield | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)C2CC2)C(=CC(=C1)CN(C)C)Cl | C19H20Cl2N4O2
